US09328114B2
5-iodo-2,3-dihydrobenzofuran-6-amine (S7-1).
To a solution of 2,3-dihydrobenzofuran-6-amine (S6-1; 95 mg, 0.7 mmol) in acetonitrile (3 mL) cooled in an ice-bath was added NIS (158 mg, 0.7 mmol). After stirring at 0° C. for 20 min, the mixture was condensed and purified by flash chromatography (hexane:EtOAc, 90:10 to 20:80) to yield S7-1 (180 mg, 98%) as a yellow solid. 1H NMR (500 MHz, CDCl3) δ 7.38 (s, 1H), 6.26 (s, 1H), 4.53 (t, J=8.5 Hz, 2H), 3.09 (t, J=8.4 Hz, 2H); MS (ESI) m/z 261.9 [M+H]+.

reactant | 2,3-dihydrobenzofuran-6-amine | 0.7 mmol, 95 mg | O1CCC2=C1C=C(C=C2)N | C8H9NO
reactant | NIS | 0.7 mmol, 158 mg | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 5-iodo-2,3-dihydrobenzofuran-6-amine | IC=1C(=CC2=C(CCO2)C1)N | C8H8INO
